US04760163
using ethyl 2-chloro-5-ureidobenzoate and ethyl cyclohexanone-2-carboxylate there is obtained ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)-1-cyclohexen-1-yl]ureido}-benzoate, m.p. 119°-122° C.,

reactant | ethyl 2-chloro-5-ureidobenzoate | ClC1=C(C(=O)OCC)C=C(C=C1)NC(=O)N | C10H11ClN2O3
reactant | ethyl cyclohexanone-2-carboxylate | CCOC(=O)C1CCCCC1=O | C9H14O3
product | ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)-1-cyclohexen-1-yl]ureido}-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)NC(=O)NC1=C(CCCC1)C(=O)OCC | C19H23ClN2O5
